US07595405B2
A solution of LiOH H2O (95 mg, 2.25 mmol) in H2O (7 mL) was added dropwise to a suspension of 3-(4-methyl-2-oxo-2H-pyridin-1-yl)5-tetrazol-1-yl-benzoic acid methyl ester (500 mg, 1.61 mmol) in THF (4 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred until the reaction solution turned into clear. Solvent was removed under vacuum and the aqueous solution was acidified by addition of 10% HCl to pH=2. The resulting precipitate was collected and dried to afford 3-(4-methyl-2-oxo-2H-pyridin-1-yl)-5-tetrazol-1-yl-benzoic acid as yellow solid (453 mg, 95%). MS (M+H)=298.

reactant | LiOH H2O | 2.25 mmol, 95 mg | O[Li].O
reactant | 3-(4-methyl-2-oxo-2H-pyridin-1-yl)5-tetrazol-1-yl-benzoic acid methyl ester | 1.61 mmol, 500 mg | COC(C1=CC(=CC(=C1)N1N=NN=C1)N1C(C=C(C=C1)C)=O)=O | C15H13N5O3
solvent | H2O | 7 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-(4-methyl-2-oxo-2H-pyridin-1-yl)-5-tetrazol-1-yl-benzoic acid | 453 mg, 95% | CC1=CC(N(C=C1)C=1C=C(C(=O)O)C=C(C1)N1N=NN=C1)=O | C14H11N5O3
